US08455475B2
Methyl 3-amino-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate
TFA (0.7 ml, 9 mmol, 13 eq.) was added to a stirred solution of methyl 3-(tert-butoxycarbonylamino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate (220 mg, 0.69 mmol, 1 eq.) in methylene chloride (10 ml) at 0° C. and the mixture was stirred at RT for 2 h. After complete deprotection (checked by TLC) the solvent was removed under reduced pressure. The residue was diluted with methylene chloride (50 ml) and washed with water (10 ml) and brine (10 ml). The organic part was evaporated under reduced pressure to give the crude product which was directly used for the next step without further purification.

reactant | TFA | 9 mmol, 0.7 ml, 13 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 3-(tert-butoxycarbonylamino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate | 0.69 mmol, 220 mg, 1 eq. | C(C)(C)(C)OC(=O)NC1CC(C2=CC=C(C=C12)C(=O)OC)(C)C | C18H25NO4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-amino-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate | NC1CC(C2=CC=C(C=C12)C(=O)OC)(C)C | C13H17NO2
